### PR TITLE
[Merged by Bors] - feat: describe the logarithmic counting function in terms of circle averages

### PR DESCRIPTION
**Pull request by kebekus**
Deliver on an open TODO and describe the logarithmic counting function in terms of circle averages.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. The material established here is a step towards Cartan's classic formula for the Nevanlinna characteristic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 1]
```diff
@@ -339,3 +349,40 @@ counting function counting poles of `f`.
...
+averages.
+-/
+
+/--
+Over the complex numbers, present the logarithmic counting function attached to the divisor of a
+meromorphic function `f` as a circle average over `log ‖f ·‖`.
+
+This is a reformulation of Jensen's formula of Complex Analysis. See
+`MeromorphicOn.circleAverage_log_norm` for Jensen's formula in the original context.
+-/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: Can you please add a cross reference from that theorem to this one?
```suggestion
This is a reformulation of Jensen's formula of complex analysis. See
`MeromorphicOn.circleAverage_log_norm` for Jensen's formula in the original context.
-/
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 2]
```diff
@@ -339,3 +349,40 @@ counting function counting poles of `f`.
...
+theorem Function.locallyFinsuppWithin.logCounting_divisor_eq_circleAverage_sub_const {R : ℝ}
+  {f : ℂ → ℂ} (h : MeromorphicOn f ⊤) (hR : R ≠ 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
    {f : ℂ → ℂ} (h : MeromorphicOn f ⊤) (hR : R ≠ 0) :
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 3]
```diff
@@ -339,3 +349,40 @@ counting function counting poles of `f`.
...
+  · simp_all
+  · rw [divisor_apply, divisor_apply]
+    all_goals aesop
+
+/--
+Variant of `locallyFinsuppWithin.logCounting_divisor_eq_circleAverage_sub_const`, using
+`ValueDistribution.logCounting` instead of `locallyFinsuppWithin.logCounting`.
+-/
+theorem ValueDistribution.logCounting_zero_sub_logCounting_top_eq_circleAverage_sub_const {R : ℝ}
+  {f : ℂ → ℂ} (h : MeromorphicOn f ⊤) (hR : R ≠ 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
    {f : ℂ → ℂ} (h : MeromorphicOn f ⊤) (hR : R ≠ 0) :
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
